* 00-rc-smoke.cir
* Basic ngspice smoke test for the Mamut workspace.

V1 in 0 PULSE(0 5 0 1u 1u 5m 10m)
R1 in out 10k
C1 out 0 10u

.tran 50u 30m

.control
set filetype=ascii
run
wrdata 00-rc-smoke.csv time v(in) v(out)
print v(in) v(out)
.endc

.end

